US07238808B2
5-Bromo-thiophene-2-sulfonic acid (2-hydroxy-ethyl)-amide
A mixture of 5-bromo-thiophene-2-sulfonyl chloride (1.5 g, 4. mmol) and ethanolamine (0.72 mL, 12 mmol) in dichloromethane (8mL)/sat. NaHCO3 solution (8 mL) was stirred at 20° C. for 28 h. The mixture was partitioned between AcOEt (50 mL) and H2O (150 mL). The organic layer was dried (Na2SO4) and evaporated to give the title compound (1.07 g, 93%) as a pale-yellow oil. MS (ISP) 284.0 [(M−H)−].

reactant | 5-bromo-thiophene-2-sulfonyl chloride | 1.5 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | ethanolamine | 12 mmol, 0.72 mL | C(O)CN | C2H7NO
reactant | NaHCO3 | 8 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 8mL | ClCCl | CH2Cl2
product | 5-Bromo-thiophene-2-sulfonic acid (2-hydroxy-ethyl)-amide | 1.07 g, 93% | OCCNS(=O)(=O)C=1SC(=CC1)Br | C6H8BrNO3S2
